* C:\Users\devaw\Documents\UMN\2025-2026\Junior_Design\Electrocardiogram-Design-Project\SPICE\AD8422_NO_RLD.asc
Vright nVright 0 SINE(0 0.5m 1)
Vleft 0 nVleft SINE(0 0.5m 1)
V1 nVDD 0 3.3
V2 0 nVSS 3.3
X§U2 nVleft N002 N003 nVright nVSS 0 nStageOneOut nVDD AD8422
R_gain N002 N003 2.21k
R_load nFilterOut 0 510k
C1 nStageOneOut nFilterOut 10µF
X§U1 nFilterOut N001 nVDD nVSS nVout ADA4522-1
R1 nVout N001 100k
R2 N001 0 1k
Vref nVref 0 1.65V
* Gain set to 10V/V
.tran 0 10 0 10m
* Gain set to 100V/V
.lib AD8422.sub
.lib ADA4522-1.lib
.backanno
.end
